US04770688
1.0 g (0.015 mol) of sodium azide is added to 3.0 g (0.007 mol) of 5-bromo-4-nitro-1-(2,3,6-trichloro-4-trifluoromethyl-phenyl)-pyrazole in 50 ml of dimethylsulphoxide, the mixture is stirred at room temperature for 15 hours, poured into 150 ml of water and extracted several times with chloroform and ethyl acetate, the combined organic phases are dried over magnesium sulphate and concentrated in vacuo and the oily crude produc is purified by chromatography (silica gel; mobile phase: chloroform/acetone 9:1). 0.68 g (24% of theory) of 5-azido-4-nitro-1-(2,3,6-trichloro-4-trifluoromethyl-phenyl)-pyrazole of melting point 84° C.-88° C. is obtained.

reactant | sodium azide | 0.015 mol, 1.0 g | [N-]=[N+]=[N-].[Na+]
reactant | 5-bromo-4-nitro-1-(2,3,6-trichloro-4-trifluoromethyl-phenyl)-pyrazole | 0.007 mol, 3.0 g | BrC1=C(C=NN1C1=C(C(=C(C=C1Cl)C(F)(F)F)Cl)Cl)[N+](=O)[O-] | C10H2BrCl3F3N3O2
reactant | water | 150 ml | O | H2O
solvent | dimethylsulphoxide | 50 ml | CS(=O)C | C2H6OS
product | 5-azido-4-nitro-1-(2,3,6-trichloro-4-trifluoromethyl-phenyl)-pyrazole | 0.68 g, 24% | N(=[N+]=[N-])C1=C(C=NN1C1=C(C(=C(C=C1Cl)C(F)(F)F)Cl)Cl)[N+](=O)[O-] | C10H2Cl3F3N6O2
